US08802678B2
To a cooled solution of 2.6 g (7.1 mmol) of 1-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]-4-(3-nitrophenyl)piperazine in 50 mL of methanol are added under inert atmosphere, 0.5 g of 10% palladium on activated carbon. The mixture is hydrogenated at 40° C. under 4 bar for 17 hours. The suspension is filtered over celite and the filtrate is concentrated under reduced pressure to give 2.3 g (97%) of 3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}aniline.

reactant | 1-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]-4-(3-nitrophenyl)piperazine | 7.1 mmol, 2.6 g | O1CCOC12CCC(CC2)CCN2CCN(CC2)C2=CC(=CC=C2)[N+](=O)[O-] | C20H29N3O4
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium on activated carbon | 0.5 g | [Pd] | Pd
product | 3-{4-[2-(1,4-dioxaspiro[4.5]dec-8-yl)ethyl]piperazin-1-yl}aniline | 2.3 g, 97% | O1CCOC12CCC(CC2)CCN2CCN(CC2)C=2C=C(N)C=CC2 | C20H31N3O2
